US07709500B2
N-{(2-R)-3-[4-(3,4-Dichlorophenoxy)piperidin-1-yl]-2-hydroxypropyl}-2-(methylsulfonyl)benzamide
A mixture of 2-(methylsulphonyl)benzoic acid (0.063 g), (2R)-1-amino-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]propan-2-ol (0.1 g) and N,N-diisopropylethylamine (0.1 ml) in dry dimethylformamide (3 ml) was cooled to 0° C. with stirring. 2-(1H-9-Azabenzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (0.13 g) was added and the mixture was stirred at 0° C. for 1-2 h. Saturated sodium bicarbonate solution (10 ml) was added. The mixture was extracted with ethyl acetate. The organic layer was separated and washed with brine and dried over sodium sulphate. The mixture was filtered and the solvent was evaporated. The resulting oil was purified by normal phase chromatography using methanol/dichloromethane as eluent, and by reverse phase HPLC using acetonitrile and 0.1% aqueous ammonium acetate as eluent, to give the title compound as a white solid (0.055 g).

reactant | 2-(methylsulphonyl)benzoic acid | 0.063 g | CS(=O)(=O)C1=C(C(=O)O)C=CC=C1 | C8H8O4S
reactant | (2R)-1-amino-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]propan-2-ol | 0.1 g | NC[C@H](CN1CCC(CC1)OC1=CC(=C(C=C1)Cl)Cl)O | C14H20Cl2N2O2
reactant | N,N-diisopropylethylamine | 0.1 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | N-{(2-R)-3-[4-(3,4-Dichlorophenoxy)piperidin-1-yl]-2-hydroxypropyl}-2-(methylsulfonyl)benzamide | 0.055 g | ClC=1C=C(OC2CCN(CC2)C[C@@H](CNC(C2=C(C=CC=C2)S(=O)(=O)C)=O)O)C=CC1Cl | C22H26Cl2N2O5S
